US08476297B2
Step 4. 1-(3,4-Difluorophenyl)-N-(4-fluorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a stirred solution of 1-(3,4-difluorophenyl)-1,2,3,4-tetrahydroisoquinoline (0.1019 g, 0.415 mmol) in 3 mL of DCM, 4-fluorophenyl isocyanate (0.0550 mL, 0.484 mmol) was added. The clear solution was stirred for 1 h. The solvent was evaporated and residue was taken into small amount of DCM. The resulting precipitate was collected to yield the title compound as a white solid. The filtrate was concentrated and purified by silica gel chromatography (0-30% EtOAc in hexanes) to afford another batch of the title compound as a white solid. MS (ESI pos. ion) m/z: 383 (M+1). 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.16-7.37 (m, 6H) 6.93-7.13 (m, 5H) 6.54 (s, 1H) 6.40 (s, 1H) 3.66 (t, J=6.28 Hz, 2H) 2.77-3.08 (m, 2H).

reactant | 1-(3,4-difluorophenyl)-1,2,3,4-tetrahydroisoquinoline | 0.415 mmol, 0.1019 g | FC=1C=C(C=CC1F)C1NCCC2=CC=CC=C12 | C15H13F2N
reactant | 4-fluorophenyl isocyanate | 0.484 mmol, 0.0550 mL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Difluorophenyl)-N-(4-fluorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC=1C=C(C=CC1F)C1N(CCC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)F | C22H17F3N2O
